US04256640
EXAMPLE 72: 9-Acetyl-4-dimethylaminoethyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole
To a solution of 4-dimethylaminomethyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole (246 mg) in dimethylformamide (4 ml) is added a 50% suspension (72 mg) of sodium hydride in mineral oil. The mixture is stirred at 40° C. for 30 minutes and further at room temperature for 1 hour after addition of acetyl chloride (95 mg) under ice-cooling and a cold aqueous solution of ammonium chloride is added thereto followed by extraction with chloroform. The extract is washed with water, dried and evaporated. The residue is washed with pentane to give crystals of the title compound (244 mg) melting at 131°-133° C. Yield: 84%

reactant | 4-dimethylaminomethyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole | 246 mg | CN(C)CC1CCSC=2NC3=CC=CC=C3C21 | C14H18N2S
reactant | sodium hydride | [H-].[Na+]
reactant | acetyl chloride | 95 mg | C(C)(=O)Cl | C2H3ClO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 9-Acetyl-4-dimethylaminoethyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole | 244 mg, Yield: 84% | C(C)(=O)N1C2=C(C3=CC=CC=C13)C(CCS2)CCN(C)C | C17H22N2OS
